US08012976B2
(E)-4-(4-Chlorobenzylideneamino)isobenzofuran-1(3H)-one
To a stirred mixture of 4-chlorobenzaldehyde (2.3 g, 16.1 mmol) and anhydrous magnesium sulfate (16 g, 134 mmol) in anhydrous acetonitrile (200 ml) was added 4-aminoisobenzofuran-1(3H)-one (2 g, 13.4 mmol) at room temperature. After the addition, the mixture was stirred at reflux for overnight. The mixture was filtered and the cake was washed with ethyl acetate (50 mL×3). The filtrate was concentrated to give crude product. The crude product was washed with petroleum ether and re-crystallized from ethyl acetate to give the title compound (2 g, yield: 55%). LC-MS (ESI) m/z: 272 (M+1)+.

reactant | 4-chlorobenzaldehyde | 16.1 mmol, 2.3 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | magnesium sulfate | 134 mmol, 16 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-aminoisobenzofuran-1(3H)-one | 13.4 mmol, 2 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (E)-4-(4-Chlorobenzylideneamino)isobenzofuran-1(3H)-one | 2 g, yield: 55% | ClC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10ClNO2
